US06346527B1
Methyl 2,3-dihydro-9-formyl-1-benzoxepin-4-carboxylate (0.5 g) was added to a mixture of O-methylhydroxylamine hydrochloride (0.25 g) and 28% sodium methoxide in methanol (0.5 ml) in methanol (5 ml) and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo to give methyl 2,3-dihydro-9-methoxyiminomethyl-1-benzoxepin-4-carboxylate (0.55 g).

reactant | Methyl 2,3-dihydro-9-formyl-1-benzoxepin-4-carboxylate | 0.5 g | C(=O)C1=CC=CC=2C=C(CCOC21)C(=O)OC | C13H12O4
reactant | O-methylhydroxylamine hydrochloride | 0.25 g | Cl.CON
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 0.5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | methyl 2,3-dihydro-9-methoxyiminomethyl-1-benzoxepin-4-carboxylate | 0.55 g | CON=CC1=CC=CC=2C=C(CCOC21)C(=O)OC | C14H15NO4
